US05532240
A mixture of 4 g of 6-acetyl-3-(2-(4-(6-fluoro-1,2-benzisoxazol-3-yl)piperidin-1-yl)ethyl)-4,5,6,7-tetrahydro-2-methylthieno[2,3-c]pyridine in 4 ml of conc. sulfuric acid and 80 ml of water was refluxed under heating for 3 hours. The mixture was poured into water, made alkaline and extracted with chloroform. The organic layer was washed with water, dried over magnesium sulfate and concentrated. To the residue was added isopropyl ether and the crystals were collected by filtration to give 3-(2-(4-(6-fluoro-1,2-benzisoxazol-3-yl)piperidin-1-yl)ethyl)-4,5,6,7-tetrahydro-2-methylthieno[2,3-c]pyridine, m.p. 88°-90° C.

reactant | 6-acetyl-3-(2-(4-(6-fluoro-1,2-benzisoxazol-3-yl)piperidin-1-yl)ethyl)-4,5,6,7-tetrahydro-2-methylthieno[2,3-c]pyridine | 4 g | C(C)(=O)N1CC2=C(CC1)C(=C(S2)C)CCN2CCC(CC2)C2=NOC1=C2C=CC(=C1)F | C24H28FN3O2S
solvent | sulfuric acid | 4 ml | S(O)(O)(=O)=O | H2O4S
solvent | water | 80 ml | O | H2O
product | 3-(2-(4-(6-fluoro-1,2-benzisoxazol-3-yl)piperidin-1-yl)ethyl)-4,5,6,7-tetrahydro-2-methylthieno[2,3-c]pyridine | FC1=CC2=C(C(=NO2)C2CCN(CC2)CCC2=C(SC=3CNCCC32)C)C=C1 | C22H26FN3OS
